US04405552
EXAMPLE 31: 4,6-DIMETHYL-5-PHENYL-2-PYRIDYLAMINE
2-Amino-4,6-dimethyl-5-phenyl-3-pyridinecarboxylic acid (6.1 grams) and copper powder (1.0 gram) were heated in 50 ml quinoline at 270°-290° C. for approximately 3 hours. The entire reaction mixture was then chromatographed over 600 ml of Grace 923 silica gel with ether followed by ethyl acetate, yield 3.0 grams of dried product, m.p. 105°-112° C.

reactant | 2-Amino-4,6-dimethyl-5-phenyl-3-pyridinecarboxylic acid | 6.1 grams | NC1=NC(=C(C(=C1C(=O)O)C)C1=CC=CC=C1)C | C14H14N2O2
solvent | quinoline | 50 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 1.0 gram | [Cu] | Cu
product | 4,6-DIMETHYL-5-PHENYL-2-PYRIDYLAMINE | CC1=CC(=NC(=C1C1=CC=CC=C1)C)N | C13H14N2
